US07645784B2
A. 2-(7-nitro-1H-benzimidazol-1-yl)propanenitrile
The compound was synthesised from 4(7)-nitro-1H-benzimidazole (1.0 g, 6.1 mmol) and 2-bromopropanenitrile (0.58 mL, 6.5 mmol) according to the procedure described for the synthesis of (7-Nitro-1H-benzimidazol-1-yl)acetic acid triethylammonium salt, part A, in a is 0.14 g (11%) yield. MS (ESI) m/z: 217.16 [M+H]. 1H NMR (400 MHz, DMSO-D6) δ ppm 2.01 (d, J=7.0 Hz, 3H) 6.08 (q, J=7.1 Hz, 1H) 7.48 (t, J=8.1 Hz, 1H) 8.09 (m, 1H) 8.16 (dd, J=8.0, 1.0 Hz, 1H) 8.89 (s, 1H).

reactant | 2-bromopropanenitrile | 6.5 mmol, 0.58 mL | BrC(C#N)C | C3H4BrN
reactant | (7-Nitro-1H-benzimidazol-1-yl)acetic acid triethylammonium salt | C(C)[NH+](CC)CC.[N+](=O)([O-])C1=CC=CC2=C1N(C=N2)CC(=O)[O-]
product | 2-(7-nitro-1H-benzimidazol-1-yl)propanenitrile | [N+](=O)([O-])C1=CC=CC2=C1N(C=N2)C(C#N)C | C10H8N4O2
